US07691879B2
1-(allyloxy)-6-methoxy-4-phenylisoquinoline-3-carbonitrile
To a suspension of NaH (60% in mineral oil, 14 mg) in 2 mL TEF was added 23 uL of allyl alcohol. The mixture was stirred for 15 min at room temp, then 100 mg of 1-chloro-6-methoxy-4-phenylisoquinoline-3-carbonitrile in 1.5 ml THF was added via cannula. The reaction was heated to 66 C for 16 h, then cooled to room temp, quenched with saturated aqueous NH4Cl, and partitioned between EtOAc and saturated aqueous sodium bicarbonate. The organic solution was washed once with brine, then dried (Na2SO4) and concentrated. Flash chromatography (35 g silica, 3-25% EA/hex) gave a white solid.

reactant | NaH | 14 mg | [H-].[Na+]
reactant | allyl alcohol | 23 uL | C(C=C)O | C3H6O
reactant | 1-chloro-6-methoxy-4-phenylisoquinoline-3-carbonitrile | 100 mg | ClC1=NC(=C(C2=CC(=CC=C12)OC)C1=CC=CC=C1)C#N | C17H11ClN2O
solvent | THF | 1.5 ml | C1CCOC1 | C4H8O
product | 1-(allyloxy)-6-methoxy-4-phenylisoquinoline-3-carbonitrile | C(C=C)OC1=NC(=C(C2=CC(=CC=C12)OC)C1=CC=CC=C1)C#N | C20H16N2O2
